* File: /home/012/k/kt/ktd170030/cad/gf65/AOI22_PEX/AOI22.pex.sp.pex
* Created: Thu Oct 26 19:01:12 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22%VSS 1 6 9 13 18 21 27 28
r60 16 23 0.0175382
r61 16 18 0.156379
r62 13 28 10
r63 11 23 0.0306086
r64 11 13 0.458555
r65 10 21 0.0175382
r66 9 23 0.0175382
r67 9 10 1.29301
r68 6 27 10
r69 4 21 0.0306086
r70 4 6 0.458555
r71 1 21 15
.ends

.subckt PM_AOI22%OUT 3 6 7 9 12 19 21 24 26 28
c59 24 0 2.82628e-19
c60 6 0 1.81269e-19
r61 21 24 1.7
r62 18 24 0.139882
r63 18 19 0.00911515
r64 15 26 15
r65 12 15 0.388606
r66 12 26 10
r67 10 19 0.0653054
r68 10 12 0.810243
r69 9 19 0.0653054
r70 8 9 0.270081
r71 6 8 0.0479332
r72 6 7 0.369176
r73 3 28 10
r74 1 7 0.0479332
r75 1 3 0.359461
.ends

.subckt PM_AOI22%NET3 3 9 10 14 19 20 23 29 30 32
r61 27 32 15
r62 23 27 0.388606
r63 23 32 10
r64 21 27 0.364318
r65 19 21 0.0479332
r66 19 20 1.73657
r67 17 30 15
r68 14 17 0.388606
r69 14 30 10
r70 12 20 0.0479332
r71 12 17 0.364318
r72 11 14 0.359461
r73 9 11 0.0479332
r74 9 10 1.01981
r75 6 29 15
r76 3 6 0.388606
r77 3 29 10
r78 1 10 0.0479332
r79 1 3 0.359461
.ends

.subckt PM_AOI22%VDD 1 6 14 17 21
r61 12 17 0.0175382
r62 12 14 1.30446
r63 10 21 15
r64 6 10 0.388606
r65 6 21 10
r66 4 17 0.0306086
r67 4 10 0.539191
r68 1 17 30
.ends

.subckt PM_AOI22%A 4 6 9 10 12 14 19 23
c44 23 0 2.45279e-20
c45 9 0 1.09252e-19
r46 22 23 25
r47 19 23 1.7
r48 9 22 7.01013
r49 9 10 1.03924
r50 6 14 46.8661
r51 5 10 5.69898
r52 5 6 54.189
r53 4 10 5.69898
r54 3 12 27.3386
r55 3 4 45.3039
.ends

.subckt PM_AOI22%B 4 6 9 10 12 14 19 23
c53 23 0 2.42527e-20
c54 9 0 2.24431e-19
c55 4 0 2.45279e-20
r56 22 23 25
r57 19 23 1.7
r58 9 22 6.21653
r59 9 10 1.03924
r60 6 14 46.8661
r61 5 10 5.69898
r62 5 6 54.189
r63 4 10 5.69898
r64 3 12 27.3386
r65 3 4 45.3039
.ends

.subckt PM_AOI22%C 4 6 9 10 12 14 19 23
c57 23 0 2.18255e-19
c58 19 0 5.56303e-20
c59 9 0 1.42143e-19
c60 4 0 2.42527e-20
r61 22 23 25
r62 19 23 1.7
r63 9 22 6.21653
r64 9 10 1.03924
r65 6 14 46.8661
r66 5 10 5.69898
r67 5 6 54.189
r68 4 10 5.69898
r69 3 12 27.3386
r70 3 4 45.3039
.ends

.subckt PM_AOI22%D 4 6 10 12 14 19 22 23
c44 22 0 1.63048e-19
r45 22 23 25
r46 19 23 1.7
r47 9 22 2.71147
r48 9 10 1.03924
r49 6 14 46.8661
r50 5 10 5.69898
r51 5 6 54.189
r52 4 10 5.69898
r53 3 12 27.3386
r54 3 4 45.3039
.ends

