* File: /home/012/k/kt/ktd170030/cad/gf65/OAI21_PEX/OAI21.pex.sp.pex
* Created: Thu Oct 26 18:46:15 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI21%NET14 3 6 7 10 13 14
r44 10 14 10
r45 8 10 0.359461
r46 6 8 0.0479332
r47 6 7 1.03233
r48 3 13 10
r49 1 7 0.0479332
r50 1 3 0.359461
.ends

.subckt PM_OAI21%VSS 1 6 11 14 19
r57 9 14 0.0175382
r58 9 11 0.702692
r59 6 19 10
r60 4 14 0.0306086
r61 4 6 0.458555
r62 1 14 30
.ends

.subckt PM_OAI21%OUT 3 9 10 13 17 19 21 24 26 28
c51 24 0 1.1958e-19
r52 21 24 1.7
r53 18 24 0.139882
r54 18 19 0.00911515
r55 16 19 0.0653054
r56 16 17 0.446897
r57 13 28 10
r58 11 19 0.0653054
r59 11 13 0.716978
r60 9 17 0.0479332
r61 9 10 0.363321
r62 6 26 15
r63 3 6 0.388606
r64 3 26 10
r65 1 10 0.0479332
r66 1 3 0.359461
.ends

.subckt PM_OAI21%VDD 1 6 12 16 24 31 32
r47 22 28 0.0175382
r48 22 24 0.0750968
r49 20 32 15
r50 16 20 0.388606
r51 16 32 10
r52 14 28 0.0306086
r53 14 20 0.456612
r54 13 26 0.0175382
r55 12 28 0.0175382
r56 12 13 0.821161
r57 10 31 15
r58 6 10 0.388606
r59 6 31 10
r60 4 26 0.0306086
r61 4 10 0.456612
r62 1 26 15
.ends

.subckt PM_OAI21%A 4 6 9 10 12 14 19 23
c44 23 0 2.45279e-20
c45 9 0 1.09252e-19
r46 22 23 25
r47 19 23 1.7
r48 9 22 7.01013
r49 9 10 1.03924
r50 6 14 46.8661
r51 5 10 5.69898
r52 5 6 62.4882
r53 4 10 5.69898
r54 3 12 27.3386
r55 3 4 45.3039
.ends

.subckt PM_OAI21%B 4 6 9 10 12 14 19 23
c51 23 0 2.42527e-20
c52 9 0 2.24431e-19
c53 4 0 2.45279e-20
r54 22 23 25
r55 19 23 1.7
r56 9 22 6.21653
r57 9 10 1.03924
r58 6 14 46.8661
r59 5 10 5.69898
r60 5 6 62.4882
r61 4 10 5.69898
r62 3 12 27.3386
r63 3 4 45.3039
.ends

.subckt PM_OAI21%C 4 6 9 10 12 14 19 23
c55 23 0 6.39497e-20
c56 19 0 5.56303e-20
c57 9 0 1.15179e-19
c58 4 0 2.42527e-20
r59 22 23 25
r60 19 23 1.7
r61 9 22 6.21653
r62 9 10 1.03924
r63 6 14 46.8661
r64 5 10 5.69898
r65 5 6 62.4882
r66 4 10 5.69898
r67 3 12 27.3386
r68 3 4 45.3039
.ends

