* File: /home/012/k/kt/ktd170030/cad/gf65/NAND2_PEX/nand2.pex.sp.pex
* Created: Thu Oct 26 19:57:26 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%OUT 3 7 8 9 12 18 19 24 26 28
c53 19 0 8.70739e-20
c54 18 0 1.27399e-19
r55 22 24 1.7
r56 18 22 0.0762359
r57 18 19 0.00911515
r58 15 26 15
r59 12 15 0.388606
r60 12 26 10
r61 10 12 0.359461
r62 8 10 0.0479332
r63 8 9 0.425963
r64 7 9 0.0479332
r65 6 19 0.0653054
r66 6 7 0.0952085
r67 3 28 10
r68 1 19 0.0653054
r69 1 3 0.37209
.ends

.subckt PM_NAND2%VSS 1 6 11 14 19
c32 14 0 1.94166e-19
r33 9 14 0.0175382
r34 9 11 0.134039
r35 6 19 10
r36 4 14 0.0306086
r37 4 6 0.795671
r38 1 14 30
.ends

.subckt PM_NAND2%VDD 1 6 12 16 24 32 33
r46 22 29 0.0175382
r47 22 24 0.157733
r48 20 33 15
r49 16 20 0.388606
r50 16 33 10
r51 14 29 0.0306086
r52 14 20 0.816072
r53 13 27 0.0175382
r54 12 29 0.0175382
r55 12 13 0.524649
r56 10 32 15
r57 6 10 0.388606
r58 6 32 10
r59 4 27 0.0306086
r60 4 10 0.816072
r61 1 27 15
.ends

.subckt PM_NAND2%A 3 4 9 11 16 20
c45 20 0 1.41742e-19
c46 16 0 7.91196e-20
c47 4 0 9.54788e-20
c48 3 0 1.37246e-19
r49 19 20 25
r50 16 20 1.7
r51 7 19 8.9331
r52 7 9 27.3386
r53 4 11 46.8661
r54 3 19 5.8331
r55 3 4 28.6079
.ends

.subckt PM_NAND2%B 4 9 11 13 18 21 22
c44 22 0 2.89645e-19
c45 21 0 1.26424e-19
c46 9 0 1.72111e-20
r47 21 22 25
r48 18 22 1.7
r49 8 21 4.82635
r50 8 9 1.38872
r51 7 11 27.3386
r52 7 9 6.7222
r53 4 13 46.8661
r54 3 9 6.7222
r55 3 4 26.1669
.ends

