* File: nand3.pex.sp.pex
* Created: Fri Oct 27 14:55:11 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3%OUT 3 7 8 9 12 18 22 28 29 35 37 39 40
c78 30 0 2.23548e-19
c79 29 0 7.16791e-20
c80 28 0 1.24846e-19
c81 18 0 1.17123e-19
c82 3 0 9.11765e-20
r83 33 35 1.7
r84 28 33 0.0762359
r85 28 29 0.00911515
r86 25 39 15
r87 22 25 0.388606
r88 22 39 10
r89 20 22 0.359461
r90 19 30 0.0363272
r91 18 20 0.0479332
r92 18 19 1.30496
r93 15 37 15
r94 12 15 0.388606
r95 12 37 10
r96 10 30 0.00944082
r97 10 12 0.359461
r98 8 30 0.0363272
r99 8 9 0.425963
r100 7 9 0.0479332
r101 6 29 0.0653054
r102 6 7 0.0952085
r103 3 40 10
r104 1 29 0.0653054
r105 1 3 0.351688
.ends

.subckt PM_NAND3%VSS 1 6 11 14 19
c40 19 0 1.17123e-19
r41 9 14 0.0175382
r42 9 11 0.166534
r43 6 19 10
r44 4 14 0.0306086
r45 4 6 0.816072
r46 1 14 30
.ends

.subckt PM_NAND3%VDD 1 6 12 16 24 32 33
c60 1 0 1.6865e-19
r61 22 29 0.0175382
r62 22 24 0.473877
r63 20 33 15
r64 16 20 0.388606
r65 16 33 10
r66 14 29 0.0306086
r67 14 20 0.815101
r68 13 27 0.0175382
r69 12 29 0.0175382
r70 12 13 0.524649
r71 10 32 15
r72 6 10 0.388606
r73 6 32 10
r74 4 27 0.0306086
r75 4 10 0.815101
r76 1 27 15
.ends

.subckt PM_NAND3%A 4 9 11 13 15 18 21
c46 21 0 1.61545e-20
c47 18 0 2.38935e-19
c48 15 0 7.25376e-20
c49 9 0 2.72871e-20
r50 18 21 25
r51 15 18 1.7
r52 8 21 3.97254
r53 8 9 1.23093
r54 7 11 27.3386
r55 7 9 6.23253
r56 4 13 46.8661
r57 3 9 6.23253
r58 3 4 25.4835
.ends

.subckt PM_NAND3%B 3 4 9 11 14 16
c48 16 0 1.61545e-20
c49 14 0 3.00936e-19
c50 3 0 2.71938e-20
r51 14 19 25
r52 14 16 1.7
r53 7 19 8.61049
r54 7 9 27.3386
r55 4 11 46.8661
r56 3 19 6.52306
r57 3 4 25.7764
.ends

.subckt PM_NAND3%C 4 9 11 13 18 21 22
c44 21 0 1.82472e-19
c45 18 0 1.37417e-20
r46 21 22 25
r47 18 22 1.7
r48 8 21 6.69065
r49 8 9 1.17391
r50 7 11 27.3386
r51 7 9 6.06739
r52 4 13 46.8661
r53 3 9 6.06739
r54 3 4 25.9717
.ends

